simulator lang=spectre
global 0

ahdl_include "./dut/resettable_integrator.va"

Vin (vin 0) vsource dc=0.005
Vrst (rst 0) vsource type=pwl wave=[ \
0 0.9 \
20n 0.9 20.2n 0 \
220n 0 220.2n 0.9 \
255n 0.9 255.2n 0 \
320n 0 \
]
XDUT (vin rst vout) resettable_integrator

simulatorOptions options evas_profile=balanced

tran tran stop=320n maxstep=500p
save vin rst vout
